US08475935B2
Step 2; Synthesis of 9-phenyl-3-[4-(10-phenyl-9-anthryl)phenyl]-9H-carbazol (Abbreviation: PCzPA)
In a 200 mL three-neck flask were stirred 1.9 g (4.7 mmol) of 9-(4-Bromophenyl)-10-phenylanthracene (abbreviation: PA) obtained by the above Steps 1(1) to 1(4) described in Synthesis Example 1, 1.4 g (4.7 mmol) of 9-phenyl-9H-carbazol-3-boronic acid obtained by the above Step 1 described in Synthesis Example 2, 5.6 mg (25 μmol) of Palladium(II) acetate (abbreviation: Pd(OAc)2), 52 mg (170 μmol) of tris(o-tolyl)phosphine (abbreviation: P(o-tolyl)3), 7 mL (15 mmol) of potassium carbonate aqueous solution (2.0 mol/L), and 40 mL of 1,2-dimethoxyethane (abbreviation: DME) in a nitrogen atmosphere for 7 hours while being heated at 90° C. After that, the temperature of this suspending solution was cooled to room temperature, and the mixture was filtered to provide a residue. The obtained residue was dissolved into 50 mL of hot toluene, and the mixture was filtered through Florisil (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 540-00135), alumina, and celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855) while 400 mL of toluene was added. The obtained filtrate was condensed, hexane was added therein, ultrasonic waves were applied thereto, and then recrystallization thereof was performed. Accordingly, 2.0 g of a powdery light-yellow solid of 9-phenyl-3-[4-(10-phenyl-9-anthryl)phenyl]-9H-carbazol (abbreviation: PCzPA), which was the object of the synthesis, was obtained in a yield of 75% (synthesis scheme (b-2)).

reactant | 9-(4-Bromophenyl)-10-phenylanthracene | 4.7 mmol, 1.9 g | BrC1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C26H17Br
reactant | 9-phenyl-9H-carbazol-3-boronic acid | 4.7 mmol, 1.4 g | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)B(O)O | C18H14BNO2
reactant | tris(o-tolyl)phosphine | 170 μmol, 52 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium carbonate | 15 mmol, 2.0 mol/L, 7 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | Palladium(II) acetate | 25 μmol, 5.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,2-dimethoxyethane | 40 mL | COCCOC | C4H10O2
product | 9-phenyl-3-[4-(10-phenyl-9-anthryl)phenyl]-9H-carbazol | yield of 75% | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C44H29N
